US05403861
4-Fluoro-1-nitro-naphthalene (1 g) was dissolved in EtOAc (20 mL) and placed into a hydrogenating flask containing Palladium on activated charcoal (10%, 0.3 g). The reaction mixture was hydrogenated at 50 psi for 5 hr. During the reaction, the pressure of the hydrogen dropped due to the consuming of the hydrogen, and it was brought back to 50 psi a few times. Finally, the reaction stopped when all the starting material was used. The resulting solution was filtered through a pad of celite and washed with EtOAc (20 mL). The clear filtrate was concentrated and dried under vacuum to yield 4-Fluoro-1-aminonaphthalene.

reactant | 4-Fluoro-1-nitro-naphthalene | 1 g | FC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6FNO2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium on activated charcoal | 0.3 g | [Pd] | Pd
product | 4-Fluoro-1-aminonaphthalene | FC1=CC=C(C2=CC=CC=C12)N | C10H8FN
